*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/ZLM(-25to85[deg])/1.30e-03[uF]/100[V]
* Murata P/N :GCM2199E2A132KA04
* Property : C = 1.30e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2199E2A132KA04 Port1 Port2
C01 Port1 N01 1.31e-09
R01 Port1 N01 1.00e+10
L02 N01 N02 6.79e-13
R03 N02 N03 7.37e-02
C04 N03 N04 2.02e-07
R04 N03 N04 1.38e+01
C05 N04 N05 4.12e-07
R05 N04 N05 3.53e-01
C06 N05 N06 6.03e-07
R06 N05 N06 4.29e-02
L07 N06 N07 8.30e-11
R07 N06 N07 7.90e-01
C08 N07 N08 1.18e-08
L08 N07 N08 8.71e-12
R08 N07 N08 1.60e-01
C09 N08 N09 8.68e-10
L09 N08 N09 4.44e-11
R09 N08 N09 5.88e-01
C10 N09 N10 6.03e-12
L10 N09 N10 1.69e-10
R10 N09 N10 2.79e+01
C11 N10 N11 1.53e-11
L11 N10 N11 2.91e-11
R11 N10 N11 7.25e+00
C12 N11 Port2 1.03e-12
L12 N11 Port2 2.20e-10
R12 N11 Port2 4.08e+01
.ENDS GCM2199E2A132KA04
