*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :4532M(1812)/U2J(-55to125[deg])/3.30e-03[uF]/1000[V]
* Murata P/N :GCM43Q7U3A332JX01
* Property : C = 3.30e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-3[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM43Q7U3A332JX01 Port1 Port2
C01 Port1 N01 3.21e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.48e-11
R03 N02 N03 4.62e-03
L04 N03 N04 1.46e-10
R04 N03 N04 7.64e-01
L05 N04 N05 4.05e-11
R05 N04 N05 9.86e-03
C06 N05 N06 4.53e-09
L06 N05 N06 1.26e-10
R06 N05 N06 1.89e+00
C07 N06 N07 2.74e-09
L07 N06 N07 7.50e-11
R07 N06 N07 1.45e+00
C08 N07 N08 6.76e-09
L08 N07 N08 1.43e-11
R08 N07 N08 3.89e-01
C09 N08 N09 2.96e-09
L09 N08 N09 1.90e-11
R09 N08 N09 3.91e-01
C10 N09 Port2 2.13e-12
L10 N09 Port2 3.71e-10
R10 N09 Port2 1.62e+02
.ENDS GCM43Q7U3A332JX01
