*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.60e-05[uF]/250[V]
* Murata P/N :GQM2195C2E160GB12
* Property : C = 1.60e-05[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GQM2195C2E160GB12 Port1 Port2
C01 Port1 N01 1.60e-11
R01 Port1 N01 1.00e+10
L02 N01 N02 6.49e-11
R03 N02 N03 3.66e-02
L04 N03 N04 6.20e-12
R04 N03 N04 1.76e-02
C05 N04 N05 2.78e-11
L05 N04 N05 5.29e-11
R05 N04 N05 8.30e+01
C06 N05 N06 8.82e-12
L06 N05 N06 6.64e-11
R06 N05 N06 1.42e+02
C07 N06 N07 1.56e-12
L07 N06 N07 1.72e-10
R07 N06 N07 2.74e+02
C08 N07 Port2 9.73e-13
L08 N07 Port2 3.47e-11
R08 N07 Port2 1.00e+05
.ENDS GQM2195C2E160GB12
